US05932571
Synthesis of 4-(1-(4,4,4-trifluorobutyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt
Combine 1-t-butoxycarbonyl-4-(1-(4,4,4-trifluorobutyl)-1H-benzimidazol-2-yl)[1,4]diazepane (1.80 g, 4.22 mmol) and methanol (15 mL). Cool in an ice bath. Add aqueous hydriodic acid (3.8 g, 2.23 mL, 57%, 16.9 mmol) and warm to ambient temperature. After 30 minutes, add aqueous hydriodic acid (1.12 mL) and heat to 50° C. After 2 hours, cool to ambient temperature and evaporate to remove most of the methanol to give a residue. Combine the residue and methanol (10 mL). Add diethyl ether (200 mL) and stir to give a solid. Decant the solvent, add diethyl ether (200 mL) and stir, collect the solid by filtration to give, after drying, the title compound: mp; 206-208° C.

reactant | 1-t-butoxycarbonyl-4-(1-(4,4,4-trifluorobutyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 4.22 mmol, 1.80 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCCC(F)(F)F)C=CC=C2 | C21H29F3N4O2
reactant | methanol | 15 mL | CO | CH4O
reactant | hydriodic acid | 16.9 mmol, 2.23 mL, 3.8 g | I | HI
reactant | hydriodic acid | 1.12 mL | I | HI
reactant | methanol | 10 mL | CO | CH4O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 4-(1-(4,4,4-trifluorobutyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | I.FC(CCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2)(F)F | InChI=1S/C16H21F3N4.HI/c17-16(18,19)7-3-11-23-14-6-2-1-5-13(14)21-15(23)22-10-4-8-20-9-12-22;/h1-2,5-6,20H,3-4,7-12H2;1H
